### PR TITLE
[Merged by Bors] - feat(CategoryTheory/Sites/DenseSubsite): towards essential surjectivity

### PR DESCRIPTION
**Pull request by joelriou**
Let `F : C₀ ⥤ C` be a dense subsite and `data : ∀ X, F.OneHypercoverDenseData J₀ J X` be a family of structures. Let `G₀` be a sheaf on `C₀`. We construct a presheaf on `C`, about which we shall show in #34976 that it is a sheaf which extends `C`.

---

- [x] depends on: #35091

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/CategoryTheory/Sites/DenseSubsite/OneHypercoverDense.lean [hunk 1]
```diff
@@ -380,6 +380,229 @@ lemma isSheaf_iff (data : ∀ X, F.OneHypercoverDenseData J₀ J X) (G : Cᵒᵖ
...
+
+namespace essSurj
+
+variable (G₀ : Sheaf J₀ A)
+
+/-- Given a dense subsite `F : C₀ ⥤ C` and a family of structures
+`data : ∀ X, OneHypercoverDenseData F J₀ J X` and a sheaf `G₀` on `J₀`,
+this is the value on an object `X : C` of the "extension" of `G₀`
+as a sheaf on `J` (see `OneHypercoverDenseData.essSurj.presheaf` and
+`OneHypercoverDenseData.essSurj.isSheaf`): it is defined as
```
Comment (dagurtomas) [inline Mathlib/CategoryTheory/Sites/DenseSubsite/OneHypercoverDense.lean]: Maybe clarify that this `OneHypercoverDenseData.essSurj.isSheaf` is referring to something that will be added in a future PR? (and remember to revert it in the future PR)

File: Mathlib/CategoryTheory/Sites/DenseSubsite/OneHypercoverDense.lean [hunk 2]
```diff
@@ -380,6 +380,229 @@ lemma isSheaf_iff (data : ∀ X, F.OneHypercoverDenseData J₀ J X) (G : Cᵒᵖ
...
+    ⟨_, (data X).mem₁₀ i₁ i₂ b₁ b₂ (by simp only [h₁, h₂, assoc, fac])⟩ _ _ ?_
+  rintro ⟨U₀, c, ⟨j, t, fac₁, fac₂⟩⟩
+  dsimp
+  simp only [assoc, ← Functor.map_comp, ← op_comp]
+  rw [IsDenseSubsite.mapPreimage_map_of_fac J F G₀ p₁ (c ≫ a) (c ≫ b₁)
+      (by rw [map_comp_assoc, ← h₁, map_comp]),
+    IsDenseSubsite.mapPreimage_map_of_fac J F G₀ p₂ (c ≫ a) (c ≫ b₂)
+      (by rw [map_comp_assoc, ← h₂, map_comp]), fac₁, fac₂,
+    op_comp, op_comp, map_comp, map_comp]
+  apply presheafObj_condition_assoc
```
Comment (dagurtomas) [inline Mathlib/CategoryTheory/Sites/DenseSubsite/OneHypercoverDense.lean]:
```suggestion
  intro ⟨W₀, a, ⟨b₁, h₁⟩, ⟨b₂, h₂⟩⟩
  refine Presheaf.IsSheaf.hom_ext G₀.cond
    ⟨_, (data X).mem₁₀ i₁ i₂ b₁ b₂ (by simp only [h₁, h₂, assoc, fac])⟩ _ _ ?_
  intro ⟨U₀, c, ⟨j, t, fac₁, fac₂⟩⟩
  simp only [assoc, ← Functor.map_comp, ← op_comp,
    IsDenseSubsite.mapPreimage_map_of_fac J F G₀ p₁ (c ≫ a) (c ≫ b₁) (by simp [← h₁]),
    IsDenseSubsite.mapPreimage_map_of_fac J F G₀ p₂ (c ≫ a) (c ≫ b₂) (by simp [← h₂])]
  simpa [fac₁, fac₂] using presheafObj_condition_assoc _ _ _ _ _ _ _
```

File: Mathlib/CategoryTheory/Sites/DenseSubsite/OneHypercoverDense.lean [hunk 3]
```diff
@@ -380,6 +380,229 @@ lemma isSheaf_iff (data : ∀ X, F.OneHypercoverDenseData J₀ J X) (G : Cᵒᵖ
...
+    ⟨_, J₀.intersection_covering (IsDenseSubsite.imageSieve_mem J₀ J F h₁.q)
+      (IsDenseSubsite.imageSieve_mem J₀ J F h₂.q)⟩ _ _ ?_
+  rintro ⟨Z₀, a, ⟨b₁, w₁⟩, ⟨b₂, w₂⟩⟩
+  refine Presheaf.IsSheaf.hom_ext G₀.cond
+    ⟨_, (data X).mem₁₀ h₁.i₀ h₂.i₀ b₁ b₂ (by rw [w₁, w₂, assoc, assoc, h₁.fac, h₂.fac])⟩ _ _ ?_
+  rintro ⟨W₀, c, hc⟩
+  dsimp [res]
+  simp only [assoc, IsDenseSubsite.mapPreimage_comp_map]
+  apply presheafObj_mapPreimage_condition
+  simp only [assoc, h₁.fac, h₂.fac]
```
Comment (dagurtomas) [inline Mathlib/CategoryTheory/Sites/DenseSubsite/OneHypercoverDense.lean]:
```suggestion
  simp
```

File: Mathlib/CategoryTheory/Sites/DenseSubsite/OneHypercoverDense.lean [hunk 4]
```diff
@@ -380,6 +380,229 @@ lemma isSheaf_iff (data : ∀ X, F.OneHypercoverDenseData J₀ J X) (G : Cᵒᵖ
...
+    obtain ⟨a, h₁, h₂⟩ : ∃ a, a = F.map ((data X).p₁ j) ≫ (data X).f i₁ ≫ f ∧
+        a = F.map ((data X).p₂ j) ≫ (data X).f i₂ ≫ f := ⟨_, rfl, (data X).w_assoc j _⟩
+    refine Presheaf.IsSheaf.hom_ext G₀.cond
+      ⟨_, cover_lift F J₀ _ (J.pullback_stable a (data Y).mem₀)⟩ _ _ ?_
+    rintro ⟨W₀, b, ⟨_, p, _, ⟨i⟩, fac⟩⟩
+    dsimp at fac ⊢
+    simp only [assoc, ← map_comp, ← op_comp]
+    rw [restriction_map (p := p), restriction_map (p := p)]
+    · rw [fac, h₂, map_comp_assoc]
+    · rw [fac, h₁, map_comp_assoc])
```
Comment (dagurtomas) [inline Mathlib/CategoryTheory/Sites/DenseSubsite/OneHypercoverDense.lean]:
```suggestion
    all_goals simp_all)
```

File: Mathlib/CategoryTheory/Sites/DenseSubsite/OneHypercoverDense.lean [hunk 5]
```diff
@@ -380,6 +380,229 @@ lemma isSheaf_iff (data : ∀ X, F.OneHypercoverDenseData J₀ J X) (G : Cᵒᵖ
...
+  rintro ⟨U₀, _, Y₀, c, d, hd, hc, rfl⟩
+  have hc' := Sieve.ofArrows.fac hc
+  have hd' := Sieve.ofArrows.fac hd
+  dsimp at hc hd hc' hd' ⊢
+  rw [assoc, ← op_comp, restriction_map (i := Sieve.ofArrows.i hd)
+    (p := F.map c ≫ Sieve.ofArrows.h hd),
+    restriction_map (i := Sieve.ofArrows.i hc) (p := Sieve.ofArrows.h hc),
+    presheafMap_π_assoc]; rotate_left
+  · simp only [map_comp_assoc, hc', reassoc_of% hd']
+  · simp only [assoc, map_comp_assoc, hd']
```
Comment (dagurtomas) [inline Mathlib/CategoryTheory/Sites/DenseSubsite/OneHypercoverDense.lean]:
```suggestion
  rw [assoc, ← op_comp, restriction_map (i := Sieve.ofArrows.i hd)
    (p := F.map c ≫ Sieve.ofArrows.h hd) (fac := by grind),
    restriction_map (i := Sieve.ofArrows.i hc) (p := Sieve.ofArrows.h hc) (fac := by grind),
    presheafMap_π_assoc]
```

File: Mathlib/CategoryTheory/Sites/DenseSubsite/OneHypercoverDense.lean [hunk 6]
```diff
@@ -380,6 +380,229 @@ lemma isSheaf_iff (data : ∀ X, F.OneHypercoverDenseData J₀ J X) (G : Cᵒᵖ
...
+    (J₀.pullback_stable c (IsDenseSubsite.imageSieve_mem J₀ J F (Sieve.ofArrows.h hd)))
+  refine Presheaf.IsSheaf.hom_ext G₀.cond ⟨_, this⟩ _ _ ?_
+  rintro ⟨V₀, a, ⟨x₁, fac₁⟩, ⟨x₂, fac₂⟩⟩
+  dsimp
+  rw [assoc, assoc,
+    IsDenseSubsite.mapPreimage_map_of_fac J F G₀ _ _ x₂ (by simpa using fac₂.symm),
+    IsDenseSubsite.mapPreimage_map_of_fac J F G₀ _ _ x₁ fac₁.symm]
+  rw [restriction_map data G₀ _ _ (F.map x₁)
+    (by rw [fac₁, fac₂, assoc, assoc, map_comp_assoc, hc']),
+    IsDenseSubsite.mapPreimage_map]
```
Comment (dagurtomas) [inline Mathlib/CategoryTheory/Sites/DenseSubsite/OneHypercoverDense.lean]:
```suggestion
  rw [assoc, assoc,
    IsDenseSubsite.mapPreimage_map_of_fac J F G₀ _ _ x₂ (by simpa using fac₂.symm),
    IsDenseSubsite.mapPreimage_map_of_fac J F G₀ _ _ x₁ fac₁.symm,
    restriction_map data G₀ _ _ (F.map x₁) (by grind), IsDenseSubsite.mapPreimage_map]
```

File: Mathlib/CategoryTheory/Sites/DenseSubsite/OneHypercoverDense.lean [hunk 7]
```diff
@@ -380,6 +380,229 @@ lemma isSheaf_iff (data : ∀ X, F.OneHypercoverDenseData J₀ J X) (G : Cᵒᵖ
...
+@[reassoc]
+lemma presheafMap_comp {X Y Z : C} (f : X ⟶ Y) (g : Y ⟶ Z) :
+    presheafMap data G₀ (f ≫ g) = presheafMap data G₀ g ≫ presheafMap data G₀ f := by
+  ext i
+  dsimp
+  rw [assoc, presheafMap_π, presheafMap_π, presheafMap_restriction, assoc]
+
+/-- Let `F : C₀ ⥤ C` be a dense subsite and `data : ∀ X, F.OneHypercoverDenseData J₀ J X`
+be a family of structures. Let `G₀` be a sheaf on `C₀`. This is a presheaf on `C` which
+extends `G₀` (TODO). -/
```
Comment (dagurtomas) [inline Mathlib/CategoryTheory/Sites/DenseSubsite/OneHypercoverDense.lean]: The TODO refers to proving that it's a sheaf?

File: Mathlib/CategoryTheory/Sites/DenseSubsite/OneHypercoverDense.lean [hunk 8]
```diff
@@ -380,6 +380,229 @@ lemma isSheaf_iff (data : ∀ X, F.OneHypercoverDenseData J₀ J X) (G : Cᵒᵖ
...
+section
+
+variable (data : ∀ X, OneHypercoverDenseData.{w} F J₀ J X)
+  [HasLimitsOfSize.{w, w} A]
+
+namespace essSurj
+
+variable (G₀ : Sheaf J₀ A)
+
+/-- Given a dense subsite `F : C₀ ⥤ C` and a family of structures
```
Comment (dagurtomas) [inline Mathlib/CategoryTheory/Sites/DenseSubsite/OneHypercoverDense.lean]: This phrasing "family of structures" sound a bit weird to me. It's fine not to explain here what `OneHypercoverDenseData` is, simply saying "family" would be enough in my opinion.

File: Mathlib/CategoryTheory/Sites/DenseSubsite/OneHypercoverDense.lean (hunk 7 above)
Comment (joelriou) [reply Mathlib/CategoryTheory/Sites/DenseSubsite/OneHypercoverDense.lean]: Currently, this refers to the fact that this presheaf extends `G₀` , but I shall also show it is a sheaf.

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
